US05952306
Ethyl N-pyridin-4-ylnipecotate (22-1)
Ethyl (±) nipecotate (7.0 g, 44.53 mmol) was reacted with 4-chlorpyridine hydrochloride (6.67 g, 44.53 mmol) as described for 21-1 to give the title compound as a yellow solid.

reactant | Ethyl (±) nipecotate | 44.53 mmol, 7.0 g | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | 4-chlorpyridine hydrochloride | 44.53 mmol, 6.67 g | Cl.ClC1=CC=NC=C1
product | Ethyl N-pyridin-4-ylnipecotate | N1=CC=C(C=C1)N1CC(C(=O)OCC)CCC1 | C13H18N2O2
